US08461134B2
A solution of 3-(2-(methylthio)ethyl)aniline (4 g, 24 mmol) in DCM (100 mL) was cooled to 0° C., then triethylamine (19.6 mL, 143 mmol) was dropwise added to the reaction solution. Then trifluoroaceticanhydride (10.2 mL, 72 mmol) was added slowly dropwise, followed by stirring at room temperature for 3 hours. Water was added to terminate the reaction. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give 2,2,2-trifluoro-N-(3-(2-(methylthio)ethyl)phenyl)acetamide (6 g, yield 95%). 1H NMR: 400 MHz CDCl3 δ 7.98-7.97 (s, 1H), 7.65 (s, 1H), 7.47-7.46 (m, 1H), 7.42-7.39 (m, 1H), 7.10-7.08 (m, 1H), 3.13-3.10 (m, 2H), 2.92-2.88 (m, 2H), 2.11 (s, 3H).

reactant | 3-(2-(methylthio)ethyl)aniline | 24 mmol, 4 g | CSCCC=1C=C(N)C=CC1 | C9H13NS
reactant | triethylamine | 143 mmol, 19.6 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroaceticanhydride | 72 mmol, 10.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(3-(2-(methylthio)ethyl)phenyl)acetamide | 6 g, yield 95% | FC(C(=O)NC1=CC(=CC=C1)CCSC)(F)F | C11H12F3NOS
